US08431569B2
To a solution of NEt3 (560 mL, 4.02 mol) and benzylamine (131 mL, 1.20 mol) in CH2Cl2 (500 mL) was added TiCl4 (500 mL of 1.0 M solution in CH2Cl2, 0.500 mol) over 30 min while the internal temperature was kept below −10° C. The resulting dark red suspension was stirred at −20° C. to −30° C. for 15 min, then a solution of 7-methyl-1,4-dioxaspiro[4.5]decan-8-one (170 g, 1.00 mmol) in CH2Cl2 (500 mL) was added at −10° C. The resulting grey-yellow suspension was allowed to warm to room temperature over 2 h, then stirred at room temperature for 16 h. MTBE (1.0 L) was added to the reaction mixture, and the yellow suspension was stirred at room temperature for 30 min and filtered through a pad of Solka Floc. The cake was washed with MTBE (4×500 mL), and the combined filtrates were concentrated to provide N-(7-methyl-1,4-dioxaspiro[4.5]dec-8-ylidene)-1-phenylmethanamine, which was used directly in the next step.

reactant | NEt3 | 4.02 mol, 560 mL | CCN(CC)CC | C6H15N
reactant | benzylamine | 1.20 mol, 131 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 7-methyl-1,4-dioxaspiro[4.5]decan-8-one | 1.00 mmol, 170 g | CC1CC2(OCCO2)CCC1=O | C9H14O3
reactant | MTBE | 1.0 L | CC(C)(C)OC | C5H12O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.500 mol, 1.0 M, 500 mL | Cl[Ti](Cl)(Cl)Cl
product | N-(7-methyl-1,4-dioxaspiro[4.5]dec-8-ylidene)-1-phenylmethanamine | CC1CC2(OCCO2)CCC1=NCC1=CC=CC=C1 | C16H21NO2
